US08026234B2
4-(7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid:
2-Chloro-7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (500 mg, 1.51 mmol) and 4-amino-3-methoxybenzoic acid (316.0 mg, 1.89 mmol) were weighed into a flask. 4-Methylbenzenesulfonic acid monohydrate (230.0 mg, 1.21 mmol) was weighed into a separate flask and dissolved in dioxane (15 ml). The toxic acid solution was then added to the flask containing the two starting materials. The reaction was stirred at 85° C. for 48 hours followed by 100° C. for an additional 48 hours. The dark brown mixture was cooled to room temperature and filtered through paper. The solids were washed with ethyl acetate (15 ml). m/z 462.4 (M+H)+.

reactant | 2-Chloro-7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 1.51 mmol, 500 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2C[C@@H](CC2)C)N1 | C14H17ClF2N4O
reactant | 4-amino-3-methoxybenzoic acid | 1.89 mmol, 316.0 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | 4-Methylbenzenesulfonic acid monohydrate | 1.21 mmol, 230.0 mg | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | FC1(C(N(C2=C(N(C1)C1C[C@@H](CC1)C)N=C(N=C2)NC2=C(C=C(C(=O)O)C=C2)OC)C)=O)F | C22H25F2N5O4
